US08609731B2
4-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]benzoic Acid Methyl Ester
A mixture of methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester (7.6 g), 4-hydroxybenzoic acid methyl ester (6.4 g), cesium carbonate (20 g) and NMP (100 ml) was heated to 75° C. for 12 hours. The cooled reaction mixture was admixed with water and extracted with ethyl acetate. The organic phase was washed three times with water, dried over magnesium sulfate and concentrated. The product was thus obtained with the molecular weight of 236.27 (C13H16O4); MS (ESI): 237 (M+H+).

reactant | methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester | 7.6 g | O1[C@@H](CCC1)COS(=O)(=O)C | C6H12O4S
reactant | 4-hydroxybenzoic acid methyl ester | 6.4 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | cesium carbonate | 20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NMP | 100 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]benzoic Acid Methyl Ester | COC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C13H16O4
